US04046894
Powdered phenobarbital sodium (25.4 g) was suspended at room temperature in 250 ml of dimethylformamide and 22.1 g of chloromethyldodecanyl ether was added to the suspension. The reaction mixture was stirred overnight and poured into 1 liter of ice-water; the mixture was then stirred for 3 hours and the waxy solid removed by filtration. The wet solid was dissolved in 150 ml of boiling ethanol; to the hot solution 1 g of activated carbon was added and the boiling solution was filtered through a Buchner funnel which contained a compacted layer of finely-divided diatomaceous silica. The filter cake was washed three times with 15 ml of ethanol and the hot solution together with the washings was allowed to cool overnight. The resulting crystals were filtered and recrystallized in the same manner as described for the first crystallization. There was obtained 13 g of N,N'-dilauryloxymethyl phenobarbital (also known as 1,3-dilauryloxymethyl-5-ethyl-5-phenyl barbituric acid), m.p. 48°-50°. When tested as described above the compound exhibited anticonvulsant activity against maximal electroshock, the peak activity occurring at 2 hours and the ED50 being about 50 mg/kg. The LD50 (oral) was determined to be greater than 500 mg/kg.

reactant | phenobarbital sodium | 25.4 g | CCC1(C(=O)NC(=O)[N-]C1=O)C=2C=CC=CC2.[Na+]
reactant | chloromethyldodecanyl ether | 22.1 g | ClCOCCCCCCCCCCCC | C13H27ClO
solvent | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
product | N,N'-dilauryloxymethyl phenobarbital | 13 g | CCCCCCCCCCCCOCN1C(=O)C(C(=O)N(C1=O)COCCCCCCCCCCCC)(CC)C2=CC=CC=C2 | C38H64N2O5
